US04670447
To a stirred suspension of 5.8 g of 6-chloro-3-(4-piperidinyl)-1H-indazole, 4.6 g of sodium bicarbonate and trichloromethane (25 ml)-tetrahydrofuran (25 ml) was added, dropwise, 5.2 g of methyl chloroformate. The reaction mixture was stirred at ambient temperature for 16 hrs and then poured into water. The organic layer was collected, washed with water, dried over anhydrous potassium carbonate and the solvent concentrated to give 4-(6-chloro-1-methoxycarbonyl-1H-indazol-3-yl)piperidine-1-carboxylic acid methyl ester, as an oil. The oil was dissolved in 50 ml of methanol and 1.5 ml of a 25% sodium methoxide-methanol solution was added. The reaction mixture was stirred at ambient temperature for 0.5 hrs, poured into water and the aqueous mixture extracted with dichloromethane. The dichloromethane extract was washed with water, dried over anhydrous magnesium sulfate and the solvent evaporated to an oil. The oil was triturated with hexane. Recrystallization from toluene-hexane (twice) yielded 3.5 g (47%) of product, mp 132°-134° C.

reactant | 6-chloro-3-(4-piperidinyl)-1H-indazole | 5.8 g | ClC1=CC=C2C(=NNC2=C1)C1CCNCC1 | C12H14ClN3
reactant | sodium bicarbonate | 4.6 g | C([O-])(O)=O.[Na+]
reactant | trichloromethane | 25 ml | ClC(Cl)Cl | CHCl3
reactant | methyl chloroformate | 5.2 g | ClC(=O)OC | C2H3ClO2
solvent | water | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-(6-chloro-1-methoxycarbonyl-1H-indazol-3-yl)piperidine-1-carboxylic acid methyl ester | COC(=O)N1CCC(CC1)C1=NN(C2=CC(=CC=C12)Cl)C(=O)OC | C16H18ClN3O4
